US07491720B2
(1) Synthesis of tert-butyl 4-(3-bromo-2-fluorobenzoyl)piperazine-1-carboxylate
To a mixture of 220 mg of 3-bromo-2-fluorobenzoic acid, 199 mg of tert-butyl piperazine-1-carboxylate and 5.0 ml of chloroform was added 171 mg of hydroxybenzotriazole monohydrate and 215 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride under cooling with ice, successively. After stirring at room temperature for 4 hours, saturated sodium bicarbonate was added to the reaction mixture, and the resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated. The residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=9/1 to 1/1) to give the title compound.

reactant | 3-bromo-2-fluorobenzoic acid | 220 mg | BrC=1C(=C(C(=O)O)C=CC1)F | C7H4BrFO2
reactant | tert-butyl piperazine-1-carboxylate | 199 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | hydroxybenzotriazole monohydrate | 171 mg | O.OC1=CC=CC=2NN=NC21
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 215 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 5.0 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(3-bromo-2-fluorobenzoyl)piperazine-1-carboxylate | BrC=1C(=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C16H20BrFN2O3
